US07368564B2
Triethylene glycol tethered diprotected 2-hydroxy-5-methyl-1,3-benzenedicarboxaldehyde (2).
To a 25 mL schlenk flask with Kontes valve and stirbar under argon 1 (1.67 mmol, 0.423 g) was added and the flask evacuated and backfilled with argon 3×. Anhydrous DMF (12.2 mL) was added via syringe and the solution stirred at rt. Next, anhydrous CsCO3 (3.52 mmol, 1.15 g) was added followed by triethylene glycol ditosylate (0.808 mmol, 0.371 g) and the mixture stirred at rt. The vessel was closed, stirred and heated to 70° C. for ca. 12 h. The reaction was allowed to cool to rt then diluted with ethyl acetate (10 mL), filtered and the solid washed with ethyl acetate (3×100 mL) and filtered. The organic extracts were combined and washed with saturated NH4Cl(aq) (25 mL) then washed with brine (3×25 mL) dried over Na2SO4, filtered and the solvent removed by rotovaporation to afford the crude product. Purification by silica plug (ethyl acetate) afforded a white solid (0.464 g; 89% yield). IR (cm−1) 2947, 2884, 1683, 1601, 1476, 1397, 1110; 1H NMR (400 MHz, CDCl3) δ 7.38 (s, 4H, ArH), 6.13 (s, 4H, ArCHO2), 4.18 (m, 4H, ArOCH2—), 4.02 (m, 16H, OCH2CH2O), 3.84 (m, 4H, ArOCH2CH2—), 3.78 (s, 4H, ArOCH2CH2OCH2CH2OCH2CH2OAr), 2.33 (s, 6H, ArCH3); {1H} 13C NMR (100 MHz, CDCl3) 154.5, 134.2, 130.8, 129.0, 99.1, 76.0, 70.9, 70.5, 65.5, 21.2.

reactant | triethylene glycol ditosylate | 0.808 mmol, 0.371 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOS(=O)(=O)C1=CC=C(C)C=C1 | C20H26O8S2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | Triethylene glycol | 89% yield | C(COCCOCCO)O | C6H14O4
